US05284847
A mixture of 2-t-butoxycarbonylamino-4-cyclopropylthiophene-3-carboxylic acid (2.6 g, 9.1 mmol) in 2-methyl-2-propanol (100 ml), triethylamine (1.2 g, 11.9 mmol) and diphenylphosphoryl azide (2.8 g 10.1 mmol) was heated at reflux for 84h. The reaction mixture was concentrated in vacuo and the residue taken up in dichloromethane which was successively washed with a 5% citric acid solution, water and an aqueous sodium bicarbonate solution. The organic phase was dried (MgSO4) and concentrated in vacuo to give 1.7 g (52%) of di-t-butyl 4-cyclopropylthiophene-2,3-dicarbamate. 1H-NMR (CDCl3, δ) : 0.55 (m, 2H) , 0.85 (m, 2H), 1.52 (s, 9H), 1.55 (s, 9H), 1.60 (s, 1H), 6.3 (br.s, 1H), 6.35 (s, 1H), 8.15 (br.s, 1H).

reactant | 2-t-butoxycarbonylamino-4-cyclopropylthiophene-3-carboxylic acid | 9.1 mmol, 2.6 g | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)O)C1CC1 | C13H17NO4S
reactant | triethylamine | 11.9 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 10.1 mmol, 2.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-methyl-2-propanol | 100 ml | CC(C)(C)O | C4H10O
product | di-t-butyl 4-cyclopropylthiophene-2,3-dicarbamate | 1.7 g, 52% | C1(CC1)C=1C(=C(SC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C17H26N2O4S
